US09403801B2
Step 1) tert-butyl 4-((2,5-dichloropyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate
To a solution of 2,4,5-trichloropyrimidine (500 mg, 2.73 mmol) and tert-butyl 4-amino-2-azaspiro[4.4]nonane-2-carboxylate (687.37 mg, 2.86 mmol) in EtOH (20 mL) was added Et3N (552.50 mg, 5.46 mmol) and the reaction mixture was stirred at rt overnight. The resulting mixture was concentrated in vacuo and the residue was purified by silica gel column chromatography (PE/EtOAc (v/v)=10/1 to 5/1) to give the product as a white solid (930 mg, 88.2%).

reactant | 2,4,5-trichloropyrimidine | 2.73 mmol, 500 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | tert-butyl 4-amino-2-azaspiro[4.4]nonane-2-carboxylate | 2.86 mmol, 687.37 mg | NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | Et3N | 5.46 mmol, 552.50 mg | CCN(CC)CC | C6H15N
solvent | EtOH | 20 mL | CCO | C2H6O
product | tert-butyl 4-((2,5-dichloropyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 930 mg, 88.2% | ClC1=NC=C(C(=N1)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C)Cl | C17H24Cl2N4O2
